US05691335
Synthesis of 1-phenyl-3-(3-methoxybenzoyl)-imidazolidin-2,4-dione (Compound 13):
In a similar manner to Example 8, 580 mg (3.30 mmol) of 1-phenyl-imidazolidin-2,4-dione were reacted with560 mg (3.29 mmol) of 3-methoxybenzoyl chloride. After completion of the reaction, pyridine was distilled off under reduced pressure, and the resultant residue was subjected to extraction with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and with saturated saline. The thus-washed organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off. The resultant residue was purified by column chromatography on silica gel (developing solvent: n-hexane/ethyl acetate) and subjected to crystallization from n-hexane/ethyl acetate to obtain 90 mg (yield: 10.2%) of the title compound.

reactant | 1-phenyl-imidazolidin-2,4-dione | 3.30 mmol, 580 mg | C1(=CC=CC=C1)N1C(NC(C1)=O)=O | C9H8N2O2
reactant | 3-methoxybenzoyl chloride | 3.29 mmol | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-phenyl-3-(3-methoxybenzoyl)-imidazolidin-2,4-dione | 90 mg, yield: 10.2% | C1(=CC=CC=C1)N1C(N(C(C1)=O)C(C1=CC(=CC=C1)OC)=O)=O | C17H14N2O4
